Lab5_electronics
*SPICE Netlist generated by Advanced Sim server on 4/14/2026 11:33:54 AM
.options MixedSimGenerated

*Schematic Netlist:
CC4 NetC4_1 NetC4_2 2.53 uF
LL4 0 NetC4_1 100mH
RR4 NetC4_2 NetR4_2 560 TC1=0 TC2=0
VV4 NetR4_2 0 DC 1 SIN(0 1 1Meg 0 0 0) AC 1 0

.PROBE {V(NetC4_2)} =PLOT(1) =AXIS(1) =NAME(V) =UNITS(V) =RGB(255, 0, 0)

*Selected Circuit Analyses:
.AC DEC 100 0.1 1000000

.END